### PR TITLE
[Merged by Bors] - feat(Algebra/MonoidAlgebra): extend the `R[M]` notation to `MonoidAlgebra R M`

### PR DESCRIPTION
**Pull request by YaelDillies**
It currently only is notation for `AddMonoidAlgebra R M`.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by eric-wieser** [comment]
CI is unhappy

**Comment by eric-wieser** [comment]
Could you add a notation test file, that checks if the ambiguity is resolved for
```lean
variable [Semiring R] [Monoid M] [AddMonoid A]
theorem test_1 : R[M] = MonoidAlgebra R M := rfl
theorem test_2 : R[A] = AddMonoidAlgebra R A := rfl

/-- error: ambiguous -/
#guard_msgs in
example := R[R]
```

**Comment by eric-wieser** [comment]
(it's maybe ok if that doesn't work yet, but we should have the test either way)

File: Mathlib/Algebra/MonoidAlgebra/Basic.lean [hunk 1]
```diff
@@ -133,7 +133,7 @@ theorem coe_algebraMap {A : Type*} [CommSemiring k] [Semiring A] [Algebra k A] [
   rfl
 
 theorem single_eq_algebraMap_mul_of [CommSemiring k] [Monoid G] (a : G) (b : k) :
-    single a b = algebraMap k (MonoidAlgebra k G) b * of k G a := by simp
+    single a b = algebraMap k (k[G]) b * of k G a := by simp
```
Comment (vihdzp) [inline Mathlib/Algebra/MonoidAlgebra/Basic.lean]: Don't know how the precedence works here, would this be correct?
```suggestion
    single a b = algebraMap k k[G] b * of k G a := by simp
```

File: Mathlib/Algebra/MonoidAlgebra/Defs.lean [hunk 2]
```diff
@@ -77,38 +77,44 @@ def unexpander : Lean.PrettyPrinter.Unexpander
 end AddMonoidAlgebra
 
 namespace MonoidAlgebra
+
+@[inherit_doc MonoidAlgebra]
+scoped syntax:max (priority := high) term noWs "[" term "]" : term
+
+macro_rules | `($R[$M]) => `(MonoidAlgebra $R $M)
```
Comment (vihdzp) [inline Mathlib/Algebra/MonoidAlgebra/Defs.lean:90]: How exactly does this work? What distinguishes whether `k[G]` gets parsed as `MonoidAlgebra k G` or `AddMonoidAlgebra k G`? Or are there some def-eq abuse shenanigans going on?

Comment (eric-wieser) [reply Mathlib/Algebra/MonoidAlgebra/Defs.lean:90]: I think notation overloading kicks in, hence the request for a test.

**Comment by eric-wieser** [comment]
I took the liberty of pushing a test, unfortunately the behavior it currently exhibits isn't very desirable.

File: Mathlib/Algebra/MonoidAlgebra/Basic.lean (hunk 1 above)
Comment (eric-wieser) [reply Mathlib/Algebra/MonoidAlgebra/Basic.lean]: I pushed a fix for all matches for `\(.\[.\]\)`

**Comment by vihdzp** [comment]
Can we do some subscripting disambiguation as we do elsewhere? For instance, maybe we can write `R[M]ₘ` for `MonoidAlgebra R M` instead.

**Comment by eric-wieser** [comment]
I think this is a topic for Zulip

File: Mathlib/Algebra/MonoidAlgebra/Defs.lean (hunk 2 above)
Comment (eric-wieser) [reply Mathlib/Algebra/MonoidAlgebra/Defs.lean:90]: I'm wrong; what distinguishes it is which namespace is open.

**Comment by YaelDillies** [comment]
I personally think this ambiguity is okay? Indeed it seems we never open both `AddMonoidAlgebra` and `MonoidAlgebra` simultaneously in mathlib, and I can't think of a case where that would happen, mathematically.

It would of course be better if there was some disambiguation going on, but it doesn't feel necessary on a first pass, which this PR is trying to be.

File: MathlibTest/Algebra/MonoidAlgebra/Defs.lean [hunk 3]
```diff
@@ -0,0 +1,46 @@
...
+open scoped MonoidAlgebra AddMonoidAlgebra
+
+-- TODO: could resolve ambiguity based on Monoid / AddMonoid
+/--
+error: Ambiguous term
+  R[M]
+Possible interpretations:
+  R[M] : Type (max ?u.29 ?u.32)
+  ⏎
+  MonoidAlgebra R M : Type (max ?u.29 ?u.32)
```
Comment (eric-wieser) [inline MathlibTest/Algebra/MonoidAlgebra/Defs.lean]: @YaelDillies, was it a deliberate choice not to add a `app_unexpander` for `MonoidAlgebra`?

Comment (YaelDillies) [reply MathlibTest/Algebra/MonoidAlgebra/Defs.lean]: Hmm, that's weird, I already noticed it was missing and wrote it, but you're right that it's not there. Maybe some ona/codespaces issue that prevented the commit from being pushed

File: Mathlib/Algebra/MonoidAlgebra/Defs.lean [hunk 4]
```diff
@@ -71,44 +71,56 @@ macro_rules | `($R[$M]) => `(AddMonoidAlgebra $R $M)
...
+
+/-- Unexpander for `MonoidAlgebra`. -/
+@[scoped app_unexpander MonoidAlgebra]
+def unexpander : Lean.PrettyPrinter.Unexpander
+  | `($_ $R $M) => `($R[$M])
+  | _ => throw ()
```
Comment (eric-wieser) [inline Mathlib/Algebra/MonoidAlgebra/Defs.lean:96]: This is the part that I'm not happy with; while anyone with both scopes open deserves to not be allowed to write `R[M]`, I don't think we should allow it to produce something in the infoview which is ambiguous.

I'm pretty sure it's possible to detect in a delaborator whether another delaborator is enabled, by inspecting the attribute environment extension. That way you could only delaborate if the other delaborator is not enabled.

It's not possible in an unexpander unfortunately as you don't have access to the environment, so you'd have to `delab`-ify this.

Comment (eric-wieser) [reply Mathlib/Algebra/MonoidAlgebra/Defs.lean:96]: Maybe @kmill has some thoughts here.

File: Mathlib/Algebra/MonoidAlgebra/Defs.lean [hunk 5]
```diff
@@ -23,7 +23,7 @@ conditions at all. In this case the construction yields a not-necessarily-unital
 not-necessarily-associative algebra but it is still adjoint to the forgetful functor from such
 algebras to magmas, and we prove this as `MonoidAlgebra.liftMagma`.
 
-In this file we define `MonoidAlgebra R M := M →₀ R`, and `AddMonoidAlgebra R M`
+In this file we define `R[M] := M →₀ R`, and `AddMonoidAlgebra R M`
```
Comment (erdOne) [inline Mathlib/Algebra/MonoidAlgebra/Defs.lean]: I prefer keeping the docstring as is, because `R[M]` is both notation for `MonoidAlgebra` and `AddMonoidAlgebra`.

Comment (erdOne) [reply Mathlib/Algebra/MonoidAlgebra/Defs.lean]: And some explanation should be added to the `## Notation` section below.

File: MathlibTest/Algebra/MonoidAlgebra/Defs.lean [hunk 6]
```diff
@@ -0,0 +1,46 @@
...
+error: Ambiguous term
+  R[M]
+Possible interpretations:
+  R[M] : Type (max ?u.29 ?u.32)
+  ⏎
+  R[M] : Type (max ?u.29 ?u.32)
+-/
+#guard_msgs in
+theorem test_1 : R[M] = MonoidAlgebra R M := rfl
+/--
```
Comment (erdOne) [inline MathlibTest/Algebra/MonoidAlgebra/Defs.lean:19]:
```suggestion
theorem test_1 : R[M] = MonoidAlgebra R M := rfl

/--
```

File: MathlibTest/Algebra/MonoidAlgebra/Defs.lean [hunk 7]
```diff
@@ -0,0 +1,46 @@
...
+  R[A] : Type (max ?u.86 ?u.92)
+-/
+#guard_msgs in
+theorem test_2 : R[A] = AddMonoidAlgebra R A := rfl
+
+-- TODO: should round-trip.
+/-- info: R[R] : Type u_1 -/
+#guard_msgs in
+#check AddMonoidAlgebra R R
+/--
```
Comment (erdOne) [inline MathlibTest/Algebra/MonoidAlgebra/Defs.lean:35]:
```suggestion
#check AddMonoidAlgebra R R

/--
```

File: MathlibTest/Algebra/MonoidAlgebra/Defs.lean [hunk 8]
```diff
@@ -0,0 +1,46 @@
+import Mathlib.Algebra.MonoidAlgebra.Defs
+
+variable {R M A} [Semiring R] [Monoid M] [AddMonoid A]
+
+
```
Comment (erdOne) [inline MathlibTest/Algebra/MonoidAlgebra/Defs.lean]:
```suggestion

```

File: Mathlib/Algebra/MonoidAlgebra/Defs.lean (hunk 4 above)
Comment (erdOne) [reply Mathlib/Algebra/MonoidAlgebra/Defs.lean:96]: I personally think this is a non-issue. `MonoidAlgebra` and `AddMonoidAlgebra` already have a bunch of name clashes (`single`, `of`, etc) that even if people were working with both `MonoidAlgebra` and `AddMonoidAlgebra`, they would open neither namespaces, rather than opening both.

**Review by erdOne — COMMENTED** [review]
I think this is a reasonable notation.

Thanks!
maintainer merge

**Review by jcommelin — COMMENTED** [review]
Thanks :tada:

bors merge
